US06414122B1
Preparation of Cyanomethyl 4-{[2-(3-Amino-N-{[N-({4-[(cyanomethyl)oxycarbonyl]-3-hydroxyphenyl}methyl)carbamoyl]methyl}propanoylamino)acetylamino]methyl}-2-hydroxybenzoate (9Y-SA(OCH2CN)-β-Ala-amine)
The crude Cyanomethyl 4-{[2-(3-[(tert-Butoxy)carbonylamino]-N-{[N-({4-[(cyanomethyl)oxycarbonyl]-3-hydroxyphenyl}methyl)carbamoyl]methyl}propanoyl-amino)acetylamino]methyl}-2-hydroxybenzoate from above was dissolved in 20 mL of dichloroethane and 10 mL of trifluoroacetic acid (26.0 mmole) was added. The deprotection reaction was stirred for 2 hours at room temperature. Dichloroethane and trifluoroacetic acid were removed in vacuo. The resulting oil was dissolved in 10 mL of ethyl acetate, and the resulting solution was added dropwise to 150 mL of rapidly stirred methyl tert-butyl ether. The product precipitated over the course of one hour and was collected by filtration, washed with methyl tert-butyl ether and dried in vacuo under a high vacuum. Obtained 2.78 grams (65% for two steps) of product as a white solid.

reactant | Cyanomethyl 4-{[2-(3-[(tert-Butoxy)carbonylamino]-N-{[N-({4-[(cyanomethyl)oxycarbonyl]-3-hydroxyphenyl}methyl)carbamoyl]methyl}propanoyl-amino)acetylamino]methyl}-2-hydroxybenzoate | C(C)(C)(C)OC(=O)NCCC(=O)N(CC(NCC1=CC(=C(C=C1)C(=O)OCC#N)O)=O)CC(=O)NCC1=CC(=C(C(=O)OCC#N)C=C1)O | C32H36N6O11
reactant | trifluoroacetic acid | 26.0 mmole, 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloroethane | 20 mL | ClC(C)Cl | C2H4Cl2
product | Cyanomethyl 4-{[2-(3-Amino-N-{[N-({4-[(cyanomethyl)oxycarbonyl]-3-hydroxyphenyl}methyl)carbamoyl]methyl}propanoylamino)acetylamino]methyl}-2-hydroxybenzoate | NCCC(=O)N(CC(NCC1=CC(=C(C=C1)C(=O)OCC#N)O)=O)CC(=O)NCC1=CC(=C(C(=O)OCC#N)C=C1)O | C27H28N6O9
